US08735417B2
Into a 5000-mL 4-necked round-bottom flask was placed a solution of 2-ethoxy-2-oxoethanaminium chloride (500 g, 3.58 mol) in water (2000 mL). To the mixture were added sodium bicarbonate (301 g, 3.58 mol) in several batches and acrylonitrile (228 g, 4.30 mol). The resulting solution was stirred overnight at 60-70° C. The reaction mixture was cooled and extracted with 3×2000 mL of ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product was purified by distillation under reduced pressure (10 mmHg) and the fraction was collected at 140-145° C. This resulted in 362.5 g (65%) of ethyl 2-(2-cyanoethylamino)acetate as a yellow oil. Step 2: Into 5000 ml 4-necked round-bottom flask was placed a solution of ethyl 2-(2-cyanoethylamino)acetate (1450 g, 9.29 mol) in chloroform (3300 mL), then added (Boc)2O (2229 g, 10.22 mol). After stirred overnight at room temperature, the resulting mixture was concentrated under vacuum. This resulted in 2400 g (crude) of ethyl 2-(tert-butoxycarbonyl)-acetate as a yellow oil. Step 3: A mixture of ethyl 2-(tert-butoxycarbonyl)acetate (800 g, 3.12 mol), ethanol (6000 mL), Rany-Ni (400 g) and ammonia (500 mL) was stirred for 5 h at room temperature under a hydrogen atmosphere. The solid was filtered out. The filtrate was concentrated under vacuum. This resulted in 710 g (87%) of ethyl 2-(tert-butoxycarbonyl)acetate as yellowish brown oil. Step 4: Into a 3000-mL 4-necked round-bottom flask was placed a solution of ethyl 2-(tert-butoxycarbonyl)acetate (910 g, 3.50 mol) in methanol (9100 mL), then added MeONa (189 g, 3.50 mol). The reaction mixture was heated to reflux for 1.5 hr, cooled to room temperature and concentrated under vacuum. The residue was diluted with 6000 mL of DCM, washed with brine, dried and concentrated under vacuum. The residue was purified by flash chromatography to afford 502.4 g (67%) of tert-butyl 3-oxo-1,4-diazepane-1-carboxylate as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 1.50 (s, 9H), 1.92-1.94 (t, J=3.2 Hz, 2H), 3.29-3.33 (m, 2H), 3.62 (s, 2H), 4.06 (s, 2H), 5.75 (s, 1H). Step 5: tert-Butyl 3-oxo-1,4-diazepane-1-carboxylate (141.0 g, 658 mmol) in DCM (349 mL) was treated with trifluoroacetic acid (279 mL, 3.6 mol) maintaining the temperature at 10° C. throughout the addition and the solution was stirred overnight. The solvent was removed and the residue was azeotroped with toluene/methanol (1:1). The oil was then stirred in isopropyl acetate (300 mL), which induced crystallation. A white solid was isolated and dried. The solid (195 g, 256 mmol) was dissolved in DMSO (155 mL) followed by 2,5-dibromothiazole (52 g, 213 mmol) and Hunigs base (83 mL, 926 mmol). The solution was vigourously stirred for 15-20 hours at 100° C. The mixture was treated with 0.75 L of brine. The precipitate was removed by filtration, washed with H2O and dried under vacuum. The solution that remained was extracted with DCM (3×500 mL) and concentrated. The resulting oil was diluted with 400 mL of brine and extracted again with 2×250 mL DCM. Concentration afforded another 21 g of 4-(5-bromo-1,3-thiazol-2-yl)-1,4-diazepan-2-one and the total mass isolated was 46 g (54%). MS APCI: [M+H]+ m/z 278.0. Step 6: 3-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (4 g, 17.16 mmol), 4-(5-bromo-1,3-thiazol-2-yl)-1,4-diazepan-2-one (4.74 g, 17.16 mmol), Pd2(dba)3 (0.786 g, 0.858 mmol), X-Phos (0.818 g, 1.716 mmol), and cesium carbonate (11.18 g, 34.3 mmol) were added to a dry flask. The flask was evacuated and backfilled with argon (3×) before adding fully degassed dioxane (55 mL) and water (5.50 mL). The flask was sealed and heated to 90° C. with stirring for 16 hours. The reaction was diluted with ethyl acetate and methanol and filtered through a celite plug, washing several times with ethyl acetate and methanol. The filtrate was dry loaded onto 12 g of silca gel and purified via silica gel chromatography (Biotage, 100% ethyl acetate, then 0-20% methanol in ethyl acetate) to afford 4-[5-(3-amino-5-methylphenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (2.33 g, 7.71 mmol, 45%). MS ESI: [M+H]m/z 303.1 1H NMR (500 MHz, DMSO-d6) δ 7.59 (s, 1H), 7.37 (s, 1H), 6.46 (s, 1H), 6.44 (s, 1H), 6.24 (s, 1H), 5.07 (s, 2H), 4.15 (s, 2H), 3.78 (br s, 2H), 3.21 (br s, 2H), 2.14 (s, 3H), 1.78 (br s, 2H).

reactant | 3-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 17.16 mmol, 4 g | CC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | 4-(5-bromo-1,3-thiazol-2-yl)-1,4-diazepan-2-one | 17.16 mmol, 4.74 g | BrC1=CN=C(S1)N1CC(NCCC1)=O | C8H10BrN3OS
reactant | X-Phos | 1.716 mmol, 0.818 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | cesium carbonate | 34.3 mmol, 11.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.858 mmol, 0.786 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | CO | CH4O
product | 4-[5-(3-amino-5-methylphenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 7.71 mmol, 2.33 g, 45% | NC=1C=C(C=C(C1)C)C1=CN=C(S1)N1CC(NCCC1)=O | C15H18N4OS
